Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have been having intrusive thoughts"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient reports that he decided to come to the hospital after he 
became concerned that his thoughts regarding suffering in the 
world, detailed below, were becoming potentially intrusive and 
might be affecting his ability to function on a daily basis. 

Patient stated that these symptoms have been concerning for the 
last two to three weeks, but they have perhaps been present 
since a trip to ___ ___ where he partied a lot and 
perhaps did more drugs, including an unspecified hallucinogen, 
then he would have liked.  Patient denies doing intravenous 
drugs and has
not done drugs since returning from this trip. 

Patient remains able to function in the classroom and reports 
that he continues to be an average student.  Patient's grades 
have not changed recently.  Patient does report that instead of 
focusing on his school work he is spending more time online 
having discussions with people with similar thoughts as his own. 
 Patient also while in class is perhaps distracted by the 
thoughts that are troubling him.  

There was perhaps initial concern that patient might be having 
suicidal ideation, but he clarifies that because of the 
suffering in the world that perhaps life is not worth living.  
Patient does not endorse that he himself would not want to live. 


We discussed the patient's goals during hospitalization.  
Patient interested in behavioral therapy and less interested in 
starting medications.  Patient will think about this overnight.  
Patient would like a short hospital stay as he will be missing 
examinations and laboratory assignments.   

Per Dr. ___ consult note from ___: Patient is a 
___ with no diagnosed psychiatric or medical history but 
suspected prior episode of depression who was sent by ___ for 
emergent evaluation after presenting to their clinic complaining 
of intrusive thoughts and paranoia.

The patient complains that, previously raised as "a pious 
___, he began to question his faith in ___ of last 
year.  He has begun increasingly to observe that "life is 
nothing but suffering", recognizing that "no one asks to be 
born, no one asks for this pain", a realization that has caused 
him to renounce his faith in God.  The patient complains that he 
has been plagued by such intrusive, racing thoughts of pain and 
suffering for the last two weeks, with difficulty focusing on 
anything else.  He describes his mood as "disappointed" noting 
that he no longer enjoys spending time with his friends of 
listening to music.  He denies difficulty with energy, sleep, or 
appetite but notes that he has recently become vegetarian having 
"too much compassion for animals who experience pain" to 
continue to eat meat.  He continues to work out regularly and 
believes he has gained 10 pounds muscle in the last few weeks.  

With regard to the beliefs above the patient states "these 
aren't new, these are historical", citing Buddhism and stoicism 
as recent sources of inspiration.  He notes that he feels 
particularly triggered by the word "evolution", a concept which 
he attributes as cause for suffering.  He has taken steps to 
"become a positive force" in the world, hoping to "leave it net 
positive" by living more mindfully and frugally.  He worries 
that he has become critical of humankind, including his friends, 
which makes it difficult to spend time with them despite his 
love for them, saying "I don't understand why no one else cares 
about all this suffering".  He at one point shares with this 
writer a metaphor in which he compares himself to Jesus who must 
assume sole responsibility for the weight of the world's sins in 
order to lead mankind to redemption, but laughs and denies that 
he believes he is God when asked.  He denies SI and HI though 
states "people have the wrong opinion of death- I'm not afraid 
of death- and I wish that I could help some of those people who 
live with so much suffering die- at least help them change their 
mind.  He has a history of depression not formally diagnosed in 
freshman and sophomore years of high school with SI with plan to 
jump off a bridge, and though he is "95% sure" he would do 
nothing to hurt himself, concedes that his distress is becoming 
severe enough and his thoughts becoming erratic enough that he 
could be at risk for injury.

Per nursing note: Pt sent in from ___, under ___, for ? 
psychosis. Pt states that for past few weeks he keeps having 
thoughts of all the bad thing going on in his life as well as 
the world. States he has been having difficulty focusing on 
anything else. Denies SI/SH.

Per ___ records:
___ is a ___ year old SAR sophomore who presents today b/o not 
being able to focus during an exam b/o obsessive thoughts about 
"evil and suffering" which has become "debilitating" over the 
past 2 weeks.  He says that since the ___ he has been "more 
religious" after a summer in ___ where he partied a lot 
(including MJ and hallucinogenic).  Over ___ break he began 
watching videos participate in internet chats about the meaning 
of the world and has now "deconverted" from Christianity.  Has 
always interested in philosophy and religion, but this seems 
different as he is unable to not think about the meaninglessness 
of life and the pointlessness of suffering.  "If I had a button 
that would kill everyone I would use it to stop the suffering". 
He thinks that it is not worth it to him to live but denies 
active SI.  He does imagine being hit by cars or trains and 
often has a fear that he will turn a corner bump into someone 
who has boiling water and will badly get burned.  He has some 
IOR, including misreading a poster in his office and thought it 
said "suffer" instead of "surfer".  He feels "critical of 
humans." "earth is a meat grinder".

Had MDE in high school for ___ years with SI and plan to jump 
off a building- never followed through.  Was "addicted to video 
games" and this led to poor grades and the depression. "I fixed 
it myself"- no treatment.  Has family h/o completed suicide- 
paternal cousin.

___ current sub use.  Last fall was drinking and marijuana 
___ week.  Denies AH, VH, PI.

Feels hopeless with crying spells, decreased attn/conc. Thinks 
about death a lot- "it's a good thing". 

Collateral per friend, ___, present at the bedside: Have been 
close since they began school, describes him as a friendly and 
energetic ___, but has noticed that he's appeared more 
depressed, lately: she says that "he'll have good days, and then 
he'll be very sad, and he's always really anxious".  He finds 
himself preoccupied by intrusive thoughts related to pain and 
suffering and is struggling with the fact that he is questioning 
his faith.  ___ supports him, as does the church, but she 
imagines that he finds his thoughts dystonic, and his behavior 
concerning- she describes an episode in which he recently stayed 
over (will occasionally stay with her sleeping on an air 
mattress on the floor) but insisted he sleep without a mattress 
or a blanket because "he thought he was supposed to be 
uncomfortable".  He has not endorsed SI but, when asked, simply 
told her "not to worry about", which of course causes her to 
worry.  He has been doing well in school, has been eating, 
working out, showering, and otherwise taking care of himself, 
but she worries for his mental health and ___.

Collateral per mother, Dr. ___: Patient 
has been struggling with his faith for the last few weeks, and 
his parents, who are ___, have attempted to be supportive, 
telling him "you're an adult, you're allowed to decide what you 
believe".  They are concerned that he made a comment prior to 
coming to the ___ saying "I have something to tell you but it 
will hurt you", no clue as to what this might mean (patient 
clarified with this writer that it means "I've lost my faith", 
and I assured him I would not relay this to his parents as he 
wants to share this with them personally).  With regard to other 
stressors, the patient is currently doing well in school, having 
struggled with his grades in freshman year, but may be worrying 
about whether he wants to become a ___ like his parents or 
a physical ___.  They say they will support him whatever 
he decides to do but do believe he has the intelligence and 
motivation to pursue medical school.  No overt concerns for 
behavior though know that, in questioning his faith, he has been 
experiencing "intrusive thoughts", generally feeling unhappy.  
He has denied SI and they have no reason to believe that he 
would harm others but are concerned for him given the level of 
anxiety he seems to be experiencing.  If hospitalized, mother 
will travel from ___ to ___ tomorrow.

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:

Diagnoses: Tentatively diagnosed with ADHD last year, no 
treatment
Hospitalizations: Denies
Current treaters and treatment: Denies
Medication and ECT trials: Denies
___: Denies
Harm to others: Denies
Access to weapons: Denies

Past medical history: 
Patient denies, but per parents, single unprovoked seizure at 
age
___ with negative neurological workup.

 
Social History:
___
Family History:
Patient cousin with depression completed suicide 

 
Physical Exam:
================================
ADMISSION PHYSICAL EXMAMINATION:
================================
Temp: 98.0 (Tm 98.0), BP: 122/77, HR: 74, RR: 17, O2 sat: 99%  
General: Young male, healthy appearing, and looks his age. 
Head: No irritation/exudate from eyes, nose, throat 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 
 
Neurological:
Cranial Nerves:
I: Not tested.
II: PERRL.
III, IV, VI: EOMI intact ___ without nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function: Luria without error 
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: Intact, can complete complex arithmetic 
Abstraction: Intact, can come to rational conclusions 
Visuospatial: Intact, can catch keys tossed to him  
Speech: Pressured speech
Language: Intact, no neologisms, paraphasias

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
Mood and Affect: Appropriate to situation, congruent with mood
Thought Process: Linear, coherent, ___. No LOA.
Thought Content: Denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: Intact, appreciates need for 
hospitalization

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================
Vital signs:
Temp: 98.2 (Tm 98.5) 
BP: 113/65 (___) 
HR: 61 (___) 
RR: 18 (___) 
O2 sat: 97% (___) 

General: Young male, healthy appearing, and looks his age. 
Head: No irritation/exudate from eyes, nose, throat 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Cognition: 
Wakefulness/alertness: Awake and alert
Attention: Intact to interview
Orientation: Oriented to person, time, place, situation
Memory: Intact to recent and past history
Fund of knowledge: Consistent with education
Abstraction: Intact, can come to rational conclusions 
Speech: Normal, non pressured.
Language: Intact, no neologisms, paraphasias

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
Mood and Affect: Appropriate to situation, congruent with mood
Thought Process: Linear, coherent, ___. No LOA.
Thought Content: Denies SI/HI/AH/VH, no evidence of delusions or 
paranoia 
Judgment and Insight: Intact, appreciates need for 
hospitalization

 
Pertinent Results:
Admission labs: 
___ 03:00PM BLOOD ___ 
___ Plt ___
___ 03:00PM BLOOD ___ 
___
___ 06:05PM BLOOD ___
___ 06:05PM BLOOD ___
___ 06:05PM BLOOD ___
___ 03:00PM BLOOD ___ 
___
___ 06:05PM BLOOD ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  Patient was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Unspecified anxiety disorder 
#) Unspecified obsessive compulsive disorder 
Patient was voluntarily admitted ___ after presenting to the 
hospital with intrusive thoughts with content focused on ideas 
that life was not worth living for himself and others, including 
animals, and that the world was in a constant state of 
suffering.  Patient's ideas were not of his own development, but 
were collected from reading and watching online videos.  Patient 
was without delusions and hallucinations.  Patient was without 
plans to hurt himself or others, but verbalized the idea the it 
might be of benefit that himself and others were dead.  Patient 
came into the hospital because over the last couple of weeks his 
ideas had began to consume him and he was distancing himself 
from friends and not participating in previously enjoyed hobbies 
such as weight lifting and listening to music.    

Patient early in his hospitalization was noted to have pressured 
speech and to endorse strongly that the world was in a constant 
state of suffering and because of this, as above, life was not 
worth living.  Patient's symptoms seemed to have been most 
troubling over the last couple of weeks, but he seems to have 
been having problems since last year when he returned from a 
trip and perhaps drank more alcohol and did drugs that he would 
not normally do. Patient describes that prior to this trip he 
was a devout ___, but that afterwards he underwent a 
___ and had lost his faith. 

Patient presented with wanting help with reducing these 
intrusive thoughts.  Patient wanted to be started on medications 
as he was hoping for reduction in these intrusive thoughts.  We 
held a family meeting with patient's mother and father and we 
agreed to start him on risperidone, for acute treatment of his 
symptoms, and fluoxetine, for long term treatment of his 
symptoms.  Patient was started on risperidone 0.5 mg at night 
and fluoxetine 20 mg daily, both of which he tolerated without 
side effects. 

Patient on the day of discharge expressed that this 
hospitalization had been of remarkable benefit.  Patient 
expressed that his thoughts and ideas had remained, but that 
they were no longer consuming and pervasive.  Patient also 
expressed that his perspective had changed in that while he held 
his beliefs, he appreciated that life was worth living for 
himself and others. 

Patient has appointments for re clearance at ___. Patient 
discharged with appointment with ___ MD, his PCP.  
Patient, from here, will be referred to a therapist and 
psychiatrist. 

3. SUBSTANCE USE DISORDERS:
#) Patient denied current drug use.  Patient with prior tobacco 
and hallucinogenic drug use.  Denied intravenous drug use.  
Patient reports he has addictive personality.  We strongly 
recommended that patient not utilize drugs as it could 
exacerbate his underlying psychiatric conditions.  

4. MEDICAL
#) None. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Patient was noted to behave 
appropriately. 

6. COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Dr. ___, mother, (___)
Patient's mother was involved in a family meeting where we 
discussed treatment options for patient.  Patient's mother was 
concerned that patient struggling with his faith and religion.  
Patient's mother reports that the patient is allowed to have his 
own thoughts and decision to participate in religion.  
Pertinently, it was important for patient that treatment team 
not disclose to parents the contents of his intrusive thoughts 
as he believed they would become troubled and uncomfortable.  

7. INTERVENTIONS
- Medications: Fluoxetine 20 mg daily, risperidone 0.5 mg daily 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Established will follow up with PCP 

- ___: Patient will see an outpatient 
therapist  
- Guardianships: Not applicable

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting fluoxetine and respiridone and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon his 
concerning thought content.  Patient is without static risk 
factors.   The modifiable risk factors were also addressed at 
that time.  We encourage that patient avoid drug use, including 
alcohol.  Patient should also good a good amount of sleep and 
work out regularly.  Finally, the patient is being discharged 
with many protective risk factors,  including ___ 
nature, ___ viewpoint, sense of responsibility to 
family, life satisfaction, reality testing ability, good coping 
skills, good ___ skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, no history of abuse, ability to tolerate rejection, 
and strong social supports.  Thus, I feel the patient does not 
meet section 12a criteria for risk of harm to self/others.  
Patient also demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning and what he would 
do in the event that thoughts of suicide or ___ arose 
(e.g. patient stated that he would contact a therapist, contact 
BU ___ counseling, or present to the ___. Overall, based on 
the totality of our assessment at this time, the patient is not 
at an acutely elevated risk of ___ nor danger to others. 

Our Prognosis of this patient is good.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DINNER 
RX *fluoxetine 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  RisperiDONE (Disintegrating Tablet) 0.5 mg PO QHS 
RX *risperidone 0.5 mg 1 tablet(s) by mouth at night Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Anxiety Disorder
Unspecified ___ and related disorder 

 
Discharge Condition:
Age appearing young man in no acute distress, casually dressed, 
adequately ___. Calm, cooperative, good eye contact. Mood is 
'better,' affect is stable, euthymic, and congruent. Thought 
process is increasingly linear. Thought content absent for 
suicidal ideation or thoughts of ___ or harm of others; no 
overt delusional thought content expressed. No evidence of 
internal preoccupation nor report of hallucinatory stimuli. 
Judgment and insight improved.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___